US05047534
The diethyl benzylmethylmalonate (75 g) was combined with 300 ml of ethanol and a solution of 100 g potassium hydroxide in 300 ml of water and heated to a gentle reflux for 5 hours. After cooling, the mixture was extracted with diethyl ether (2×300 ml). The aqueous phase was then acidified with 120 ml concentrated hydrochloric acid, and extracted with diethyl ether (3×300 ml). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated to yield 49.2 g of benzylmethylmalonic acid as a yellow solid (83% yield).

reactant | diethyl benzylmethylmalonate | 75 g | C(C1=CC=CC=C1)CC(C(=O)OCC)C(=O)OCC | C15H20O4
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 100 g | [OH-].[K+]
solvent | water | 300 ml | O | H2O
product | benzylmethylmalonic acid | 49.2 g, 83% yield | C(C1=CC=CC=C1)CC(C(=O)O)C(=O)O | C11H12O4
